US06294555B1
Preparation of 4-amino-N-[1-(1-benzoyl-4-piperidinylmethyl)-4-piperidinyl]-5-chloro-2-methoxybenzamide
To a solution of 4-amino-5-chloro-2-methoxy-N-[1-(4-piperidinylmethyl)-4-piperidinyl]benzamide (610 mg) and triethylamine (0.22 ml) in methylene chloride (30 ml) is added benzoyl chloride (0.19 ml) at room temperature, and the mixture is stirred for 5 hours. The reaction mixture is washed with water, and a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and the solvent is evaporated under reduced pressure. The residue is purified by silica gel column chromatography (eluent; chloroform: methanol=20:1) to give the desired compound (610 mg).

reactant | 4-amino-5-chloro-2-methoxy-N-[1-(4-piperidinylmethyl)-4-piperidinyl]benzamide | 610 mg | NC1=CC(=C(C(=O)NC2CCN(CC2)CC2CCNCC2)C=C1Cl)OC | C19H29ClN4O2
reactant | triethylamine | 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.19 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-amino-N-[1-(1-benzoyl-4-piperidinylmethyl)-4-piperidinyl]-5-chloro-2-methoxybenzamide | 610 mg | NC1=CC(=C(C(=O)NC2CCN(CC2)CC2CCN(CC2)C(C2=CC=CC=C2)=O)C=C1Cl)OC | C26H33ClN4O3
